US04694105
487 ml of thionyl chloride are added dropwise to a stirred solution of 805 g of diethylene glycol monoethyl ether in 10 ml of pyridine. After all has been added, the mixture is heated to 80°. The initially vigorous evolution of gas ceases after about 3 hours. The reaction mixture is then degassed in vacuo, affording as residue 843 g of diethylene glycol monoethyl ether chloride which is taken up in 1 l of ethanol and stirred with 750 ml of ammonia in an autoclave at 130° for 15 hours. After cooling, 240 g of sodium hydroxide are cautiously added. The mixture is filtered and the residue is washed with alcohol. The filtrate is concentrated by evaporation and the residue is dried by azeotropic distillation with toluene and then purified by fractional distillation through a Vigreux column. The main fraction, diethylene glycolamine ethyl ether, distills at 73°-76°/17 mbar. Yield: 382 g (48% of theory).

reactant | thionyl chloride | 487 ml | S(=O)(Cl)Cl | Cl2OS
reactant | diethylene glycol monoethyl ether | 805 g | C(C)OCCOCCO | C6H14O3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | diethylene glycol monoethyl ether chloride | 843 g | [Cl-].C(C)OCCOCCO | InChI=1S/C6H14O3.ClH/c1-2-8-5-6-9-4-3-7;/h7H,2-6H2,1H3;1H/p-1
